US06740662B1
After the reaction of 3-(3-chlorobenzoyl)-2-ethylamino-6-methylpyridine with isochroman-1,3-dione (75%) under heating, the compound obtained by usual work-up was reacted with methyl iodide in 2-butanone in the presence of potassium carbonate. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain methyl 2-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]benzoate as a yellow solid. MS: 433.

reactant | 3-(3-chlorobenzoyl)-2-ethylamino-6-methylpyridine | ClC=1C=C(C(=O)C=2C(=NC(=CC2)C)NCC)C=CC1 | C15H15ClN2O
reactant | isochroman-1,3-dione | C1(OC(CC2=CC=CC=C12)=O)=O | C9H6O3
reactant | methyl iodide | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | methyl 2-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]benzoate | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)C1=C(C(=O)OC)C=CC=C1 | C25H21ClN2O3
